US05610293
A. Synthesis of 1,4,7,10,13,16,19-heptaazacycloheneicosane
A mixture of 1,4,7,10,13,16,19-hepta(p-toluenesulfonyl)-1,4,7,10,13,16,19-heptaazacycloheneicosane (28.3 g, 0.0205 mole) and concentrated H2SO4 (85 ml) was heated at 100° C. with stirring under a dry argon atmosphere for 4 days. To the resulting solution, ethanol (170 mL) was added dropwise with stirring at 0° C., followed by ethyl ether (430 ml). The solid was filtered and dried in vacuo over P2O5. The solid was then dissolved in H2O (75 ml) and the pH of the solution was adjusted to 10 with 10N NaOH. Insoluble impurities were removed by filtration and the solution was extracted with 6 x CHCl3. The extracts were combined, dried (Na2SO4) and the solvent removed in vacuo to give a yellow oil which crystallized on standing. The aqueous layer was taken to dryness in vacuo and the resulting brown oily solid was extracted. with hot THF (2×500 ml). The THF extracts were filtered and combined with the yellow solid obtained above. Insoluble impurities were removed by filtration and the solvent was removed in vacuo to give a yellow crystalline solid. The crude solid was crystallized from CHCl3 -acetonitrile to give 505 mg (8% yield) of the product as colorless needles: mp 163°-5° C.; 1H NMR (CDCl3) δ2.99 (s, 28 H), 4.00 (br s, 7 H); Exact mass (M+H)+ : calcd., 302. 3032; Found: 302. 3097 (C14H36N7).

reactant | 1,4,7,10,13,16,19-hepta(p-toluenesulfonyl)-1,4,7,10,13,16,19-heptaazacycloheneicosane | 0.0205 mole, 28.3 g | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CCN(CCN(CCN(CCN(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C63H77N7O14S7
reactant | H2SO4 | 85 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 170 mL | C(C)O | C2H6O
solvent | ethyl ether | 430 ml | C(C)OCC | C4H10O
product | 1,4,7,10,13,16,19-heptaazacycloheneicosane | 505 mg, 8% yield | N1CCNCCNCCNCCNCCNCCNCC1 | C14H35N7
